US04508716
A solution of 17.8 g of 7-chloro-1-(β-chloroethyl)-2-chloromethyl-5-(2-furyl)-2,3-dihydro-1H-1,4-benzodiazepine in 250 ml of methylene chloride is heated under reflux with 10.4 g of 3-chloroperbenzoic acid for 2 hours. The reaction solution is then rendered alkaline with aqueous dilute sodium hydroxide solution and is worked up in the customary manner, and the reaction product is isolated and then purified by chromatography on aluminium oxide of activity level II, using methylene chloride, and crystallised from methanol. 13 g of 7-chloro-1-(β-chloroethyl)-2-chloromethyl-5-(2-furyl)-2,3-dihydro-1H-1,4-benzodiazepine-4-oxide are obtained. Melting point: 158° to 159° C.

reactant | 7-chloro-1-(β-chloroethyl)-2-chloromethyl-5-(2-furyl)-2,3-dihydro-1H-1,4-benzodiazepine | 17.8 g | ClC=1C=CC2=C(C(=NCC(N2CCCl)CCl)C=2OC=CC2)C1 | C16H15Cl3N2O
reactant | 3-chloroperbenzoic acid | 10.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 7-chloro-1-(β-chloroethyl)-2-chloromethyl-5-(2-furyl)-2,3-dihydro-1H-1,4-benzodiazepine-4-oxide | 13 g | ClC=1C=CC2=C(C(=[N+](CC(N2CCCl)CCl)[O-])C=2OC=CC2)C1 | C16H15Cl3N2O2
